US07041668B2
8.9 mg of succinamic acid methyl ester, 25 mg of 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HBTU) and 12 μl diisopropyl-ethylamine were taken up in 0.4 ml dimethylformamide. Reaction mixture was stirred at room temperature for one hour and 5-(4-[1-imidazolyl]-phenylsulfonyloxy)-1H-benzimidazole-2-ylamine was added in 0.2 ml dimethylformamide. Reaction mixture was then stirred at room temperature for 24 hours. Solvent was evaporated in a Jouan model RC 10.10 centrifuge evaporator and title compound was solubilised in 0.5 ml dimethylsulfoxide for LCMS trigged purification yielding 3.9 mg of N-[5-(4-[1-imidazolyl]-phenylsulfonyloxy)-1H-benzimidazole-2-yl]-succinamic-acid-methyl ester. (LC/MS analysis: retention time=2.70 min., mass spectrum: 470.34, [M+H]+).

reactant | succinamic acid methyl ester | 8.9 mg | COC(CCC(=O)N)=O | C5H9NO3
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 25 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropyl-ethylamine | 12 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(4-[1-imidazolyl]-phenylsulfonyloxy)-1H-benzimidazole-2-ylamine | N1(C=NC=C1)C1=CC=C(C=C1)S(=O)(=O)OC1=CC2=C(NC(=N2)N)C=C1 | C16H13N5O3S
solvent | dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | N-[5-(4-[1-imidazolyl]-phenylsulfonyloxy)-1H-benzimidazole-2-yl]-succinamic-acid-methyl ester | 3.9 mg | COC(CCC(=O)NC1=NC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)N2C=NC=C2)=O | C21H19N5O6S
